US07253192B2
A] 2-{4-[2,2-Dimethyl-5-(4-trifluoromethoxy-phenyl)-pent-4-ynyloxy]-2-methyl-phenoxy}-2-methyl-propionic acid ethyl ester
A solution of 0.082 g (0.30 mmol) 2,2-dimethyl-5-(4-trifluoromethoxy-phenyl)-pent-4-yn-1-ol (example 24E]) in 0.3 ml CH2Cl2 was treated at 0° C. with 0.08 ml (0.36 mmol) 2,6-di-tert-butylpyridine and 0.05 ml (0.33 mmol) trifluoromethanesulfonic anhydride. After 2.5 h at 0° C. and 0.5 h at room temperature the solution was evaporated, dissolved in 1 ml acetonitrile and added to a solution of 0.071 g (0.30 mmol) 2-(4-hydroxy-2-methyl-phenoxy)-2-methyl-propionic acid ethyl ester (described in WO 02/092590) and 0.205 g (0.63 mmol) Cs2CO3 in 2 ml acetonitrile. The mixture was stirred for 20 h at room temperature and 1 h at reflux temperature. After filtration, the residue was dissolved in dichloromethane, dried (Na2SO4), filtered and evaporated. Purification by flash chromatography (SiO2, n-heptane/EtOAc 2%) yielded 0.096 g of the title compound as light yellow oil.

reactant | 2,2-dimethyl-5-(4-trifluoromethoxy-phenyl)-pent-4-yn-1-ol | 0.30 mmol, 0.082 g | CC(CO)(CC#CC1=CC=C(C=C1)OC(F)(F)F)C | C14H15F3O2
reactant | 2,6-di-tert-butylpyridine | 0.36 mmol, 0.08 ml | C(C)(C)(C)C1=NC(=CC=C1)C(C)(C)C | C13H21N
reactant | trifluoromethanesulfonic anhydride | 0.33 mmol, 0.05 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | 2-(4-hydroxy-2-methyl-phenoxy)-2-methyl-propionic acid ethyl ester | 0.30 mmol, 0.071 g | C(C)OC(C(C)(C)OC1=C(C=C(C=C1)O)C)=O | C13H18O4
reactant | Cs2CO3 | 0.63 mmol, 0.205 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | CH2Cl2 | 0.3 ml | C(Cl)Cl | CH2Cl2
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
product | 2-{4-[2,2-Dimethyl-5-(4-trifluoromethoxy-phenyl)-pent-4-ynyloxy]-2-methyl-phenoxy}-2-methyl-propionic acid ethyl ester | 0.096 g | C(C)OC(C(C)(C)OC1=C(C=C(C=C1)OCC(CC#CC1=CC=C(C=C1)OC(F)(F)F)(C)C)C)=O | C27H31F3O5
